US08426411B2
To a solution of cis-ethyl 3-hydroxycyclobutanecarboxylate (0.17 g, 1.2 mmol) in DMF (4 mL) was added K2CO3 (0.24 g, 1.8 mmol) followed by 4-(bromomethyl)benzonitrile (0.28 g, 1.4 mmol). The reaction was stirred at about 25° C. for about 16 h. The reaction was partitioned between EtOAc (50 mL) and brine (50 mL). The layers were separated and the organic layer was washed with additional brine (50 mL). The organic layer was then dried over anhydrous Na2SO4, filtered, and concd in vacuo to give cis-ethyl 3-(4-cyanobenzyloxy)-cyclobutanecarboxylate (0.29 g, 95%) as an oil: 1H NMR (DMSO-d6) δ 7.82 (d, J=8.5 Hz, 2H), 7.63 (d, J=8.4 Hz, 2H), 4.75 (s, 2H), 4.02 (q, J=7.1 Hz, 2H), 3.93 (m, 1H), 2.58-2.45 (m, 1H), 2.41-2.28 (m, 2H), 1.98-1.85 (m, 2H), 1.20-1.08 (t, J=7.1 Hz, 3H).

reactant | cis-ethyl 3-hydroxycyclobutanecarboxylate | 1.2 mmol, 0.17 g | O[C@H]1C[C@H](C1)C(=O)OCC | C7H12O3
reactant | K2CO3 | 1.8 mmol, 0.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(bromomethyl)benzonitrile | 1.4 mmol, 0.28 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | cis-ethyl 3-(4-cyanobenzyloxy)-cyclobutanecarboxylate | 0.29 g, 95% | C(#N)C1=CC=C(CO[C@H]2C[C@H](C2)C(=O)OCC)C=C1 | C15H17NO3
